US04487773
2-[3-[4-(3-Chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-2,4-dihydro-4-(3-phenoxypropyl)-3H-1,2,4-triazol-3-one (Ib)
A mixture of 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-1H-1,2,4-triazol-3(2H)-one (3.86 g., 0.01 mole), 3-phenoxypropyl bromide (2.15 g., 0.01 mole), potassium carbonate (4.15 g., 0.01 mole) and a trace of potassium iodide in 50 ml. of acetonitrile is refluxed for a 65 hr. period. The reaction mixture is filtered, the filtrate concentrated under reduced pressure and residual material taken up in ether and filtered. Solvent is removed and further purification carried out by sequentially converting the free base to the hydrochloride salt and then to the free base which is chromatographically treated employing a silica column with methanol/chloroform eluant. Free base, obtained from the chromatographic separation, is converted to the hydrochloride salt in ethanol employing ethanolic hydrogen chloride to afford 1.17 g., (22% yield) of analytically pure 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-2,4-dihydro-4-(3-phenoxypropyl)-3H-1,2,4-triazol-3-one hydrochloride, m.p. 145°-147° C.

reactant | 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-1H-1,2,4-triazol-3(2H)-one | 0.01 mole, 3.86 g | ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1NC(=NC1=O)CC | C17H24ClN5O
reactant | 3-phenoxypropyl bromide | 0.01 mole, 2.15 g | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | potassium carbonate | 0.01 mole, 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | 2-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-2,4-dihydro-4-(3-phenoxypropyl)-3H-1,2,4-triazol-3-one hydrochloride | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1N=C(N(C1=O)CCCOC1=CC=CC=C1)CC
solvent | ethanol | C(C)O | C2H6O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[3-[4-(3-Chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-2,4-dihydro-4-(3-phenoxypropyl)-3H-1,2,4-triazol-3-one | 22% yield | ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1N=C(N(C1=O)CCCOC1=CC=CC=C1)CC | C26H34ClN5O2
